US04562190
Acetic anhydride (70 ml) was added to a solution of dimethylamine hydrochloride (12.7 g) in 37% aqueous solution (10.5 ml) of formaldehyde at 80° C. To the solution was added 5-propionylbenzothiazolone (21.5 g) and the resultant mixture was stirred at the same temperature for 2 hours. After the solvent was evaporated in vacuo, the residue was treated with a mixture of saturated aqueous solution of sodium bicarbonate and ethyl acetate. Insoluble powder was collected by filtration to give 5-(3-dimethylamino-2-methylpropionyl)benzothiazolone (12.5 g) as light red-violet powder.

reactant | dimethylamine hydrochloride | 12.7 g | Cl.CNC
reactant | formaldehyde | C=O | CH2O
reactant | 5-propionylbenzothiazolone | 21.5 g | C(CC)(=O)C=1C=CC2=C(N=CS2=O)C1 | C10H9NO2S
solvent | Acetic anhydride | 70 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-(3-dimethylamino-2-methylpropionyl)benzothiazolone | 12.5 g | CN(CC(C(=O)C=1C=CC2=C(N=CS2=O)C1)C)C | C13H16N2O2S
